US06620829B2
3-Cyano-4-isopropyl-heptanoic acid t-butyl ester (0.8 g, 3.2 mmol) is reduced under 50 psi of H2 in MeOH containing TEA and Ra Ni. When the theoretical amount of H2 is taken up, the catalyst is removed by filtration, and the solvent is evaporated to give 0.6 g (100% yield) of 4-(1-isopropyl-butyl)-2-pyrrolidone as an oil.

reactant | 3-Cyano-4-isopropyl-heptanoic acid t-butyl ester | 3.2 mmol, 0.8 g | C(C)(C)(C)OC(CC(C(CCC)C(C)C)C#N)=O | C15H27NO2
solvent | MeOH | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 4-(1-isopropyl-butyl)-2-pyrrolidone | 0.6 g, 100% yield | C(C)(C)C(CCC)C1CC(NC1)=O | C11H21NO
